US08242133B2
To a mixture of 0.28 g of 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole, 0.14 g of potassium carbonate and 3 ml of DMF, 3 ml of a THF solution of dimethylamine was added and stirred while heating at 60° C. for 3.3 hours. The reaction mixture was cooled to room temperature, and then water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, and the resultant crystals were washed with diethyl ether to give 0.27 g of dimethyl-{4-[5-(trifluoromethyl)benzoxazole-2-yl]pyridin-3-yl}amine (hereinafter, referred to as “active compound 131”).

reactant | 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.28 g | FC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6F4N2O
reactant | potassium carbonate | 0.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | dimethylamine | CNC | C2H7N
solvent | water | O | H2O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | dimethyl-{4-[5-(trifluoromethyl)benzoxazole-2-yl]pyridin-3-yl}amine | 0.27 g | CN(C=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F)C | C15H12F3N3O
